US07838624B2
Synthesis of 1-bromo-4-(2-ethylhexyl)-benzene
The procedure was adapted from Weinshenker, N. M. et al., J. Org. Chem. 1975, 40, 1966. A 100-mL round bottom flask was charged with (2-ethylhexyl)-benzene (12 g, 0.063 mol), carbon tetrachloride (20 mL), and anhydrous ferric chloride (0.10 g). A 3.9 mL solution of bromine (0.076 mol) in 10 mL of carbon tetrachloride was added. The resultant mixture was exothermic and proceeded with evolution of hydrogen bromide gas (and some bromine gas) that was neutralized with sodium hydroxide. The reaction was completed as the evolution of hydrogen bromide was finished. The solution was stirred at ambient temperature for an additional hour. After addition of aqueous sodium hydroxide (10%), the mixture was extracted with diethyl ether (3×100 mL). The combined organic layer was washed with aqueous sodium hydroxide (10%) until no yellow/brown color in the aqueous phase was observed. The organic phase was dried over anhydrous magnesium sulfate (MgSO4). After the product was filtered, the solvent was removed by rotary evaporation. The crude product was distilled under vacuum to yield 13.8 g (81%) of colorless oil.

reactant | (2-ethylhexyl)-benzene | 0.063 mol, 12 g | C(C)C(CC1=CC=CC=C1)CCCC | C14H22
reactant | bromine | 0.076 mol | BrBr | Br2
reactant | hydrogen bromide | Br | BrH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromo-4-(2-ethylhexyl)-benzene | 13.8 g, 81% | BrC1=CC=C(C=C1)CC(CCCC)CC | C14H21Br
